* source ACIA
X_U7C         N10152 N10831 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8         N05166 N12154 $G_DPWR $G_DPWR $G_DGND DS14C88_1 
+
X_U10A         N07176 N07083 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9A         N12131 N05500 $G_DPWR $G_DGND DS14C89A
X_U11B         N07083 N07112 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4         N10831 N04590 0 0 N11095 N11099 N11049 N11053 N11003 N11007 N10957
+  N10961 $G_DPWR $G_DGND 74164 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R2         N04964 0  1k  
X_U6D         N10891 N11210 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2         M_UN0001 M_UN0002 N04602 N04652 N04654 N04656 N04658 N04660 N04662
+  N04664 N01530 N01581 N01632 N01683 N01734 N01785 N01836 N01887 $G_DPWR $G_DGND
+  74LS245 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_X1         N06033 N06033 QZP100K
X_U3         0 N02566 N02554 N02558 0 N03000 N03000 M_UN0003 M_UN0004 M_UN0005
+  N04592 N04586 N04588 N04590 M_UN0006 N02808 N02796 N02800 $G_DPWR $G_DGND
+  74LS244 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_4K7         N07176 0  1k  
X_U1         N04828 N04832 N04836 N04848 N04844 N04852 N04840 N04856 N04964
+  N04948 N04960 N04952 N04956 N04944 N04940 N04936 N07112 N10152 74LS688 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
