* source PARALLEL
V_VIN         IN 0 DC 0 AC 1 STIMULUS=
X_U5A         N03303 N03400 $G_DPWR $G_DGND 74LS14 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4         N03100 M_UN0001 M_UN0002 M_UN0003 M_UN0004 N02325 N02416 N02507
+  N02598 N02689 N02780 N02871 N02962 M_UN0005 $G_DPWR $G_DGND 74LS166A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_VCC         VCC 0 5Vdc
